US07122550B2
6-Chloro-N-(3,4-dichlorobenzyl)pyrazin-2-amine
In a procedure analogous to Example 21, reaction of 3,4-dichlorobenzylamine and 2,6-dichloropyrazine furnished the product (89%).

reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | 2,6-dichloropyrazine | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 6-Chloro-N-(3,4-dichlorobenzyl)pyrazin-2-amine | 89% | ClC1=CN=CC(=N1)NCC1=CC(=C(C=C1)Cl)Cl | C11H8Cl3N3
